US08247421B2
Step 9: 4-(5-amino-1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(isopropylamino)pyrimidine-5-carbonitrile
Benzyl 3-(5-cyano-2-(isopropylamino)pyrimidin-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-ylcarbamate (0.199 g, 0.342 mmol) in EtOH (15 mL) was charged with ammonium formate (0.129 g, 2.055 mmol, 6.0 Eq) and 10% Pd/C (0.040 g, 0.2 Eq) and heated at reflux for 3 hours.

reactant | Benzyl 3-(5-cyano-2-(isopropylamino)pyrimidin-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-ylcarbamate | 0.342 mmol, 0.199 g | C(#N)C=1C(=NC(=NC1)NC(C)C)C1=CN(C2=NC=C(C=C21)NC(OCC2=CC=CC=C2)=O)S(=O)(=O)C2=CC=C(C)C=C2 | C30H27N7O4S
reactant | ammonium formate | 2.055 mmol, 0.129 g, 6.0 Eq | C(=O)[O-].[NH4+]
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | Pd/C | 0.040 g, 0.2 Eq | [Pd] | Pd
product | 4-(5-amino-1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(isopropylamino)pyrimidine-5-carbonitrile | NC=1C=C2C(=NC1)N(C=C2C2=NC(=NC=C2C#N)NC(C)C)S(=O)(=O)C2=CC=C(C)C=C2 | C22H21N7O2S
